US04014920
11.6 g (0.05 mol) of 1-[p-(2-acetylaminovinyl)-phenoxy]-2,3-epoxy-propane are dissolved in 100 ml of isopropanol, 4.25 ml (0.05 mol) of isopropylamine are added and thereafter the mixture is heated to the boil for 3 hours under reflux. It is then evaporated in vacuo and the resulting crude base is crystallised from ethyl acetate. 1-[p-(2-Acetylaminovinyl)-phenoxy]-2-hydroxy-3-isopropylaminopropane of melting point 144°-146°C is obtained.

reactant | 1-[p-(2-acetylaminovinyl)-phenoxy]-2,3-epoxy-propane | 0.05 mol, 11.6 g | C(C)(=O)NC=CC1=CC=C(OCC2CO2)C=C1 | C13H15NO3
reactant | isopropylamine | 0.05 mol, 4.25 ml | C(C)(C)N | C3H9N
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 1-[p-(2-Acetylaminovinyl)-phenoxy]-2-hydroxy-3-isopropylaminopropane | C(C)(=O)NC=CC1=CC=C(OCC(CNC(C)C)O)C=C1 | C16H24N2O3
